US06599902B2
Synthesis of 5-(2,6-dichloro-phenylmethanesulfonyl)-3-[1-(3,5-dimethyl-4-morpholin-4-ylmethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-(2,6-Dichlorophenylmethanesulfonyl)-1,3-dihydro-indol-2-one was condensed with 3,5-dimethyl-4-morpholin-4-ylmethyl-1H-pyrrole-2-carbaldehyde to give 2.0 g of the titled compound as an orange solid.

reactant | 5-(2,6-Dichlorophenylmethanesulfonyl)-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 3,5-dimethyl-4-morpholin-4-ylmethyl-1H-pyrrole-2-carbaldehyde | CC1=C(NC(=C1CN1CCOCC1)C)C=O | C12H18N2O2
product | 5-(2,6-dichloro-phenylmethanesulfonyl)-3-[1-(3,5-dimethyl-4-morpholin-4-ylmethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 2.0 g | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CN1CCOCC1)C | C27H27Cl2N3O4S
